2196-11-01 06:23:00 Physician Resident Progress Note
Chief Complaint: Weakness/pituitary macroadenoma
   24 Hour Events:
 BLOOD CULTURED - At [**2196-11-1**] 05:00 AM
 URINE CULTURE - At [**2196-11-1**] 05:00 AM
   - Spoke with endocrinologist: hold PM ddAVP and reassess in AM (if
   Urine Na>142, UOP high and spec gravity <1.005, would add back ddAVP).
   Lower steroids to 50mg IV Q8hrs.  Overlap new insulin lantus/prandial
   humalog/humalog sliding scale with insulin gtt and then stop insulin
   gtt.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-10-31**] 08:45 AM
   Metoprolol - [**2196-10-31**] 02:45 PM
   Hydralazine - [**2196-11-1**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-11-1**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 73 (67 - 106) bpm
   BP: 128/57(76) {109/47(66) - 155/78(94)} mmHg
   RR: 17 (6 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,320 mL
                                                                    741 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                  2,480 mL
                                                                    741 mL
   Blood products:
   Total out:
                                                                  3,765 mL
                                                                  1,750 mL
   Urine:
                                                                  3,765 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -445 mL
                                                                 -1,009 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Endotracheal tube
   SpO2: 97%
   ABG: ////
   Physical Examination
   General: Initially lethargic but arousable, later improved when sitting
   up in the chair.  Still some question of language barrier vs
   significant lack of attention when trying to maintain conversation.
   HEENT: Crani sites with intact sutures and staples.  Asymmetric facial
   edema R>L including moderate periorbital edema making it difficult to
   open his eyes.  PERRL 3->2.  OP clear, enlarged tongue midline.
   Sensation intact.
   Chest: CTA bilat, somewhat poor effort.
   Heart: RRR S1 S2, no m/r/g.
   Abdomen: slightly distended, +BS, nontender.  No HSM or mass.
   Extrem: RUE with deformity and overall decrease in size with fixed
   flexion at wrist and hand.  LUE with large bony structure.  Feet
   bilateral very large in size.  No edema or rash. 2+ pulses
   Neuro: Lethargic as above.  CN II-XII intact.  Sensation grossly
   intact.  Strength exam incomplete because of poor cooperation.  Except
   for RUE, appears to be [**5-3**] when fully participatory.  Oriented to
   hospital, [**Month (only) 1961**], reports surgery as 2 days ago (was 3 days ago).
   Labs / Radiology
   350 K/uL
   12.0 g/dL
   140 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   10 mg/dL
   99 mEq/L
   132 mEq/L
   34.6 %
   12.1 K/uL
        [image002.jpg]
                            [**2196-10-28**]  10:54 PM
                            [**2196-10-29**]  01:18 AM
                            [**2196-10-29**]  01:22 AM
                            [**2196-10-29**]  02:49 AM
                            [**2196-10-29**]  04:38 AM
                            [**2196-10-29**]  07:36 AM
                            [**2196-10-29**]  07:48 AM
                             [**2196-10-30**]  01:23 AM
                             [**2196-10-31**]  03:48 AM
                             [**2196-11-1**]  04:28 AM
   WBC
   20.4
   15.9
   13.4
   14.8
   12.1
   Hct
   41.4
   37.9
   32.1
   34.9
   34.6
   Plt
   375
   322
   262
   315
   350
   Cr
   0.6
   0.7
   0.5
   0.5
   TCO2
   25
   29
   23
   22
   29
   Glucose
   295
   176
   171
   140
   Other labs: PT / PTT / INR:11.5/22.6/1.0, CK / CKMB /
   Troponin-T:296/5/, ALT / AST:18/22, Alk Phos / T Bili:110/0.3, Amylase
   / Lipase:68/24, Lactic Acid:1.6 mmol/L, Albumin:3.7 g/dL, Ca++:8.5
   mg/dL, Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 HYPERGLYCEMIA
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   28M with little past medical history presenting with hyperglycemia,
   features of acromegaly, found to have pituitary macroadenoma with
   suprasellar extension now s/p craniotomy and decompression; now
   transferred to MICU service for continued endocrine management.
   .
   .
   # Acromegaly/pituitary macroadenoma s/p decompression:  s/p craniotomy
   on [**10-28**] with removal of a mass and decompression, now stable from
   surgical standpoint.  No plans to go back to OR; per neurosurg they
   could consider radiation therapy in the future.
   - Continue Q4H neuro checks for now; will discuss needed frequency with
   neuro [**Doctor First Name **] team.
   - continue keppra 500 mg [**Hospital1 **] for one month
   - Maintain SBP < 160.  Is tolerating PO meds without difficulty.  To
   simplify regimen will convert to metoprolol 25mg [**Hospital1 **] and reassess need
   to titrate up dose.
   - appreciate endocrine following.
   - f/u IGF1 and [**Hospital1 **] levels.
   - Continue steroid therapy per endocrine recs
 currently at
   hydrocortisone 50mg Q8hrs
   .
   # Diabetes insipidus/SIADH.  Had been hypernatremic with polyuria
   consistent with DI due to recent decompression.  Urine output decreased
   to a more manageable amount with ddAVP but is now hyponatremic, so
   evening dose of ddAVP was held.  This morning making 300ccs/hour of
   urine with increased hyponatremia.  Endocrine following; per note can
   also see SIADH picture following this type of surgery, so need to watch
   Na closely.  Today we will restart ddAVP to decrease fluid output, with
   the plan to limit the amount of free water to tree hyponatremia.  We
   will try having him meet his fluid demands himself with free access to
   water.
   - Continue to monitor Na per endo recs.
   - ddAVP at 2 mcg [**Hospital1 **]
   - Check [**Hospital1 **] lytes.
   .
   # Hyperglycemia. Secondary to likely growth hormone secreting pituitary
   tumor as above, vs. more classic DM II.  HA1C 17 during admission.  He
   may have decreasing insulin requirements after his body equilibrates
   with lower glucose levels.
   - endocrine following, appreciate recs.
   - Now on subcu regimen, with long-acting lantus, prandial humalog and
   humalog sliding scale.
   - If he leaves on sub-cu insulin, which is likely given his high doses
   of insulin, he will need significant teaching to allow for home
   management.
   .
   # Lethargy.  Improved now that he was sitting up in chair with less
   lethargy but he still gave mostly monosyllabic answers.  Unclear
   whether language barrier plays a role
 last night he did not give more
   info with interpreter. Per neurosurgery, has been this way since very
   beginning of course.
   - Discuss with family how his current status compares to his baseline.
   - Check with endocrine re: can lethargy be attributed to macroadenoma.
   - Consider neuro input if no source can be found with data gathering.
   - Will discuss with neurosurg re: mental status over time.
   - ABG prn to ensure pCO2 not the cause.
   - Hold sedating meds and pain meds.
   .
   # Central/obstructive sleep apnea. Sleep study performed with frequent
   desaturations to 60's.  Neurosurgery would like to avoid positive
   pressures  as he had recent surgery
   - appreciate sleep recs
   - discuss with neurosurg time-course of when CPAP would be possible.
   .
   # Fever/leukocytosis.  Remains afebrile and leukocytosis improved.  No
   focal source of infection.
   - c/u cultures.
   .
   # FEN: replete lytes prn / DM diet as mental status allows.
   # PPX: H2B bowel regimen, will discuss with neurosurg whether SC
   heparin possible.
   # ACCESS: PIV
   # CODE: full
   # CONTACT: patient, [**Name2 (NI) 757**]
   # DISPO: He needs a PT consult to gauge whether patient will need
   rehab.  He does not have insurance and we should begin to work with
   case management about setting up services when he is discharged.
   ICU Care
   Nutrition: Regular diabetic diet
   Glycemic Control:  Lantus, prandial Humalog and ss Humalog.
   Lines:
   16 Gauge - [**2196-10-28**] 10:00 PM
   Prophylaxis:
   DVT: pneumo boots, ? possible SC heparin.
   Stress ulcer: H2 blocker
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Possibly to floor once status has stabilized.

2196-11-02 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Family meeting: baseline is active, able to walk and normal mental
   status, for past month has been having left sided weakness, shortness
   of breath, lethargy and abnormal breathing pattern.  Per faimly he
   actually looks better now.
   - Sleep study: Periodic breathing with central apnea, pt would benefit
   from O2 at night when clinically appropriate.
   - Desat's down to 70's when sleeping but slowly comes back up when
   woken up
   - able to concentrate urine without ddavp
   - 2230: increased UOP, still net positive for the day, urine lytes <10
   and serum Na 134 -> restart ddavp
   -still very lethargic
   -started subQ heparin
   -still with a lot of thirst and still making lots of urine
   -decreased UOP after ddAVP given
   -decreased hydrocortisone dose this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-11-1**] 07:54 PM
   Heparin Sodium (Prophylaxis) - [**2196-11-1**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-11-2**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 61 (61 - 81) bpm
   BP: 123/64(79) {102/46(61) - 134/86(96)} mmHg
   RR: 12 (8 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.9 kg (admission): 80 kg
             Total In:
                                                                  8,572 mL
                                                                  2,550 mL
   PO:
                                                                  6,030 mL
                                                                  1,940 mL
   TF:
   IVF:
                                                                  2,542 mL
                                                                    610 mL
   Blood products:
   Total out:
                                                                  7,910 mL
                                                                  2,220 mL
   Urine:
                                                                  7,910 mL
                                                                  2,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    662 mL
                                                                    330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   356 K/uL
   12.4 g/dL
   158 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   11 mg/dL
   101 mEq/L
   137 mEq/L  (136, 136, 131, 132)
   36.8 %
   8.5 K/uL
        [image002.jpg]
                            [**2196-10-29**]  01:18 AM
                            [**2196-10-29**]  01:22 AM
                            [**2196-10-29**]  02:49 AM
                            [**2196-10-29**]  04:38 AM
                            [**2196-10-29**]  07:36 AM
                            [**2196-10-29**]  07:48 AM
                             [**2196-10-30**]  01:23 AM
                             [**2196-10-31**]  03:48 AM
                             [**2196-11-1**]  04:28 AM
                             [**2196-11-2**]  04:30 AM
   WBC
   20.4
   15.9
   13.4
   14.8
   12.1
   8.5
   Hct
   41.4
   37.9
   32.1
   34.9
   34.6
   36.8
   Plt
   375
   322
   262
   [**Telephone/Fax (3) 9107**]
   Cr
   0.6
   0.7
   0.5
   0.5
   0.5
   0.5
   TCO2
   29
   23
   22
   29
   Glucose
   295
   176
   171
   140
   216
   158
   Other labs: PT / PTT / INR:11.5/22.6/1.0   ([**10-29**]) , CK / CKMB /
   Troponin-T:296/5/   , ALT / AST:18/22   ([**10-29**]), Alk Phos / T
   Bili:110/0.3, Amylase / Lipase:68/24, Lactic Acid:1.6 mmol/L,
   Albumin:3.7 g/dL, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: 3pm Serum Na 136  Osm 289
   UNa 41  Osm 491
   11pm Serum Na 136
   UNa <10   Uurea 243  UCr 18   Osm 169
   ddAVP ordered at MN
   4am Serum Na 137
   UNa 123  UCr 67   Uosm 568
   FSBS 124-253
   [**Hospital1 **], IGF1 pending
   Cpeptide normal
   free T3 low 199 (230-420)
   Glutamate decarboxylase Ab normal
   UA 1.014, glucose 100, ketone neg
   Microbiology: UCx negative to date
   BCx negative to date [**Date range (1) 9108**]
   Gstain with OP flora
   Assessment and Plan
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ELECTROLYTE & FLUID DISORDER, OTHER
 DIABETES MELLITUS (DM), TYPE I
 HYPERGLYCEMIA
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   28M with little past medical history presenting with hyperglycemia,
   features of acromegaly, found to have pituitary macroadenoma with
   suprasellar extension now s/p craniotomy and decompression; now
   transferred to MICU service for continued endocrine management.
   # Acromegaly/pituitary macroadenoma s/p decompression:  s/p craniotomy
   on [**10-28**] with removal of a mass and decompression, now stable from
   surgical standpoint.  No plans to go back to OR; per neurosurg they
   could consider radiation therapy in the future.
   - Continue Q4H neuro checks for now; will discuss needed frequency with
   neuro [**Doctor First Name **] team.
   - continue keppra 500 mg [**Hospital1 **] for one month
   - Maintain SBP < 160.  Currently on Metoprolol 25 PO bid
   - appreciate endocrine following.
   - f/u IGF1 and [**Hospital1 **] levels.
   - Continue steroid therapy per endocrine recs
 currently at
   hydrocortisone 50mg Q8hrs --> but with plan to decrease to 25mg PO q8
   this am
   # Diabetes insipidus/SIADH.  Had been hypernatremic with polyuria
   consistent with DI due to recent decompression.  Urine output decreased
   to a more manageable amount with ddAVP but is now hyponatremic, so
   evening dose of ddAVP was held.  Over yesterday was making a large amt
   of urine (500-600 per hour) but has decreased to <100/hr earlier this
   am after getting ddAVP. His fluid has been balanced mostly with PO
   intake.
   - Continue to monitor Na per endo recs.
   - F/u Endo recs re: further ddAVP
   - Check [**Hospital1 **] lytes.
   # Hyperglycemia. Secondary to likely growth hormone secreting pituitary
   tumor as above, vs. more classic DM II.  HA1C 17 during admission.
   Blood sugars were fairly well controlled yesterday, currently on 20
   Humalog tid and 60 Glargine hs with SSI.
   - endocrine following, appreciate recs.
   - will need DM/insulin education
   # Lethargy.  Was pretty normal until a month ago per family, when all
   of this started. Encourage OOB
   - F/u with Endo re: whether this lethargy can be attributed to the pit
   adenoma.
   - Consider Neuro consult if continued
   - Encourage OOB
   - Consider PT/OT consult
   - Consider ABG prn to ensure pCO2 not the cause.
   - Hold sedating meds and pain meds.
   # Central/obstructive sleep apnea. Sleep study performed with frequent
   desaturations to 60's.  Neurosurgery would like to avoid positive
   pressures  as he had recent surgery
   - Sleep study --> would benefit from pos pressure at night
   - Need to f/u with NSurg re: when can initiate given recent surgery
   .
   # Fever/leukocytosis.  Remains afebrile and leukocytosis improved.  No
   focal source of infection.
   - c/u cultures.
   - hold off on ABx for now
   # FEN: replete lytes prn / DM diet as mental status allows.
   # PPX: H2B bowel regimen, subQ heparin started
   # ACCESS: PIV
   # CODE: full
   # CONTACT: patient, [**Name2 (NI) 757**]
   # DISPO: He needs a PT consult to gauge whether patient will need
   rehab.  He does not have insurance and we should begin to work with
   case management about setting up services when he is discharged. Stable
   to call out to floor.
   ICU Care
   Nutrition:
   Comments: DM diet
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   20 Gauge - [**2196-11-1**] 09:19 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:

2196-11-02 13:31:00 Physician Attending Progress Note
Chief Complaint: s/p resection of suprasellar mass
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Lethargy - started back on DDAVP
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-11-1**] 07:54 PM
   Heparin Sodium (Prophylaxis) - [**2196-11-1**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, History of thyroid disease, Pituitary
   resection
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-11-2**] 01:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 73 (61 - 80) bpm
   BP: 138/98(108) {108/43(63) - 138/98(108)} mmHg
   RR: 5 (5 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.9 kg (admission): 72.7 kg
   Height: 71 Inch
             Total In:
                                                                  8,572 mL
                                                                  3,545 mL
   PO:
                                                                  6,030 mL
                                                                  2,180 mL
   TF:
   IVF:
                                                                  2,542 mL
                                                                  1,365 mL
   Blood products:
   Total out:
                                                                  7,910 mL
                                                                  3,610 mL
   Urine:
                                                                  7,910 mL
                                                                  3,610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    662 mL
                                                                    -65 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, craniotomy
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   356 K/uL
   158 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   11 mg/dL
   101 mEq/L
   137 mEq/L
   36.8 %
   8.5 K/uL
        [image002.jpg]
                            [**2196-10-29**]  01:18 AM
                            [**2196-10-29**]  01:22 AM
                            [**2196-10-29**]  02:49 AM
                            [**2196-10-29**]  04:38 AM
                            [**2196-10-29**]  07:36 AM
                            [**2196-10-29**]  07:48 AM
                             [**2196-10-30**]  01:23 AM
                             [**2196-10-31**]  03:48 AM
                             [**2196-11-1**]  04:28 AM
                             [**2196-11-2**]  04:30 AM
   WBC
   20.4
   15.9
   13.4
   14.8
   12.1
   8.5
   Hct
   41.4
   37.9
   32.1
   34.9
   34.6
   36.8
   Plt
   375
   322
   262
   [**Telephone/Fax (3) 9107**]
   Cr
   0.6
   0.7
   0.5
   0.5
   0.5
   0.5
   TCO2
   29
   23
   22
   29
   Glucose
   295
   176
   171
   140
   216
   158
   Other labs: PT / PTT / INR:11.5/22.6/1.0, CK / CKMB /
   Troponin-T:296/5/, ALT / AST:18/22, Alk Phos / T Bili:110/0.3, Amylase
   / Lipase:68/24, Lactic Acid:1.6 mmol/L, Albumin:3.7 g/dL, Ca++:8.3
   mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ELECTROLYTE & FLUID DISORDER, OTHER
 DIABETES MELLITUS (DM), TYPE I
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   Continues to have copious urine that responds to DDAVP. Will treat with
   DDAVPas UO is again rising.  Will have to monitor Na closely on the
   floor.  Glu is well controlled. Major issue now is his lethargy. Seems
   likely at least in part due to OSA but no CPAP until he is out 4 weeks
   from surgery.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: Glargine
   Lines:
   20 Gauge - [**2196-11-1**] 09:19 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2196-11-03 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: polyuria
   24 Hour Events:
   - Gave 1mcg ddAVP for greater than 300cc/hr UOP for >3hrs.
   - SW consult to discuss resources after discharge.
   - Started on Vanc
   - Increased Lantus to 65U
   - LUE u/s ordered for antecubital former PIV site that has whitehead
   and indurated cord underneath, suspicious for superficial
   thrombophlebitis in setting of new [**2-1**] GPC in clusters in blood
   - Difficult sticks, have been doing arterial sticks to draw blood.
   430a  Serum Na 137 Uosm 568 --> 5p  Serum Na 129, Osm 267, UNa 148, Osm
   426
   - New BCx from [**11-2**] pending
   - IGF back at 596 (126-382)
   - [**Hospital1 **] >200 (<10)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-11-2**] 04:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-11-2**] 08:09 PM
   Famotidine (Pepcid) - [**2196-11-2**] 08:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-11-3**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 67 (53 - 80) bpm
   BP: 125/71(83) {112/43(63) - 146/98(108)} mmHg
   RR: 20 (8 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.9 kg (admission): 72.7 kg
   Height: 71 Inch
             Total In:
                                                                  7,032 mL
                                                                  2,157 mL
   PO:
                                                                  4,380 mL
                                                                  1,450 mL
   TF:
   IVF:
                                                                  2,652 mL
                                                                    707 mL
   Blood products:
   Total out:
                                                                  7,470 mL
                                                                  3,770 mL
   Urine:
                                                                  7,470 mL
                                                                  3,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -438 mL
                                                                 -1,613 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Sleeping, but easily arousable, answering questions appropriately.
   Asks for water once awake, MM appears dry. Surgical sites appear clean.
   Breathes loudly through his mouth. Lungs rhonchorous with upper airways
   sounds and poor air movement. RRR.  Abdomen soft, NTND.  Left
   antecubital fossa has a white pustule with surrounding erethyma and an
   ajoining linear area of tender induration.
   Labs / Radiology
   331 K/uL
   11.8 g/dL
   98 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.3 mEq/L
   6 mg/dL
   99 mEq/L
   135 mEq/L
   33.2 %
   7.8 K/uL
        [image002.jpg]
                            [**2196-10-29**]  01:22 AM
                            [**2196-10-29**]  02:49 AM
                            [**2196-10-29**]  04:38 AM
                            [**2196-10-29**]  07:36 AM
                            [**2196-10-29**]  07:48 AM
                             [**2196-10-30**]  01:23 AM
                             [**2196-10-31**]  03:48 AM
                             [**2196-11-1**]  04:28 AM
                             [**2196-11-2**]  04:30 AM
                             [**2196-11-3**]  01:30 AM
   WBC
   15.9
   13.4
   14.8
   12.1
   8.5
   7.8
   Hct
   37.9
   32.1
   34.9
   34.6
   36.8
   33.2
   Plt
   322
   262
   315
   350
   356
   331
   Cr
   0.7
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   29
   23
   22
   29
   Glucose
   176
   171
   140
   216
   158
   98
   Other labs: PT / PTT / INR:11.5/22.6/1.0, CK / CKMB /
   Troponin-T:296/5/, ALT / AST:18/22, Alk Phos / T Bili:110/0.3, Amylase
   / Lipase:68/24, Lactic Acid:1.6 mmol/L, Albumin:3.7 g/dL, Ca++:8.2
   mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Microbiology: [**11-1**] blood culture: 2/2 bottles GRAM POSITIVE COCCI IN
   CLUSTERS
   [**11-2**] blood culture: pending
   Assessment and Plan
 OBSTRUCTIVE SLEEP APNEA (OSA)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ELECTROLYTE & FLUID DISORDER, OTHER
 DIABETES MELLITUS (DM), TYPE I
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   28M presenting with hyperglycemia, features of acromegaly, found to
   have pituitary macroadenoma with suprasellar extension now s/p
   craniotomy and decompression; now with polyuria, intermittent
   hyponatremia and persistent somnolence.
   # Diabetes insipidus/SIADH.   Became hyponatremic to 129 after
   receiving 1mcg ddAVP yesterday.  Did not get a second dose and since
   midnight has been making 500 to 700 ccs of urine an hour.  We still
   think that he has diabetes insipidus secondary to his surgery.  Our
   plan now is to try giving ddAVP, but to fluid restrict him afterwards
   to prevent hyponatremia.  We will also stop giving him IV fluids as
   these may be preventing him from self regulating.  We will also consult
   the renal service to get their input on how to manage this complex
   patient.
   - renal consult
   - Appreciate endocrine recs.
   - Give 1 mcg of ddAVP and restrict to 2L of PO intake afterwards.
   - [**Hospital1 **] lytes.
   # Fever/bacteremia: had [**2-1**] positive blood cultures for gram positive
   cocci in clusters.  The induration in his left-sided antecubital fossa
   is concerning for superficial thrombophlebitis and a possible source
   for his positive blood cultures.  He continues to be afebrile with a
   decreasing WBC count, making high-grade bacteremia unlikely.  On day 2
   of vanco and awaiting speciation.  Staph aureus vs epidermis.
   - consult vascular to evaluate this possible.
   - RUE ultrasound to assess for DVT or abscess.
   - continue vancomycin 1mg Q12hours.  If culture is sensitive, will
   consider changing to nafcillin.
   - if staph aureus, consult ID
   - induration on left arm could be a potential source.
   # Acromegaly/pituitary macroadenoma s/p decompression:  s/p craniotomy
   on [**10-28**] with removal of a mass and decompression, now stable from
   surgical standpoint.  No plans to go back to OR; per neurosurg they
   could consider radiation therapy in the future.  IGF and [**Hospital1 **] levels
   confirm that he had hypersecretion and likely acromegaly.
   - Continue Q4H neuro checks for now
   - continue keppra 500 mg [**Hospital1 **] for one month
   - Maintain SBP < 160.  Currently on Metoprolol 25 PO bid
   - appreciate endocrine following.
   - Continue steroid therapy per endocrine recs
 currently at
   hydrocortisone 50mg Q8hrs --> but with plan to decrease to 25mg PO q8
   this am
   # Hyperglycemia. Secondary to likely growth hormone secreting pituitary
   tumor as above, vs. more classic DM II.  HA1C 17 during admission.
   Blood sugars were fairly well controlled yesterday, currently on 20
   Humalog tid and 65 Glargine hs with SSI.
   - endocrine following, appreciate recs.
   - will need DM/insulin education
   # Lethargy.  Most likely related to sleep apnea, as he is profoundly
   apneic at times at night.  Plan is to initiate night CPAP in one month
   once he has recovered sufficiently from his surgery to tolerate
   positive pressures (per neurosurg).  Was pretty normal until a month
   ago per family, when all of this started. Encourage OOB and ambulation.
   - Encourage OOB
   - Consider PT/OT consult
   - Hold sedating meds and pain meds.
   # Central/obstructive sleep apnea. Sleep study performed with frequent
   desaturations to 60's.  Neurosurgery would like to avoid positive
   pressures  as he had recent surgery
   - Sleep study --> would benefit from pos pressure at night
   .
   # FEN: replete lytes prn / DM diet
   # PPX: H2 blocker, bowel regimen, subQ heparin started
   # ACCESS: PIV.  Has difficult access.  Placed order for PICC, but has
   had positive cultures.  Will see if this is possible.
   # CODE: full code
   # CONTACT: patient, [**Name2 (NI) 757**]
   # DISPO: The patient ideally would probably go to rehab after
   discharge.  He has no insurance, however, and does not appear to
   qualify for insurance.  There is also some concern about whether his
   family can care for him.  We are working with social work and case
   management.
   ICU Care
   Nutrition: Regular diabetic diet.
   Glycemic Control:  QHS lantus, prandial humalog and sliding scale.
   Lines:
   20 Gauge - [**2196-11-1**] 09:19 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: H2 blocker
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending better fluid management, then to floor.
   Unclear long-term dispo as above.

2196-11-04 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2196-11-3**] 09:13 AM
   - LUE u/s: negative for clot. Not clear if they assessed for an
   abscess.  Radiologist will f/u with tech and call back in AM.
   - On our bedside echo, patient appears to have a non-compressible
   portion of vein at the site of the induration, consistent with
   thrombophlebitis.
   - Endocrine recs: Hold ddAVP if Na<133, watch out for SIADH which
   typically happens around day 7 post-op.  Reduce hydrocortisone to 25mg
   IV Q8hrs.
   - Renal recs: hold ddAVP and fluid restrict patient after midnight to
   see what his set point will be.  If sodium rises rapidly or becomes
   hypotensive, stop water deprivation.  If UO continues to be high after
   water deprivation, then give ddAVP.
   - At midnight 6.3L negative for the day! UOP still 450-600ccs per hour.
   - IV access - PICC team thought U/S was to assess for clot, and
   therefore put off PICC pending final radiology read which didn't come
   until 5pm. They will reassess in AM.
   - PM urine and serum lytes:
   - vascular consult re supperative phlebitis: no note in chart, team
   census says they expressed some pus from the site, but there are no
   cultures in OMR.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2196-11-3**] 08:15 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-11-3**] 08:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-11-4**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 75 (62 - 79) bpm
   BP: 128/72(85) {115/12(35) - 160/106(117)} mmHg
   RR: 13 (7 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.9 kg (admission): 72.7 kg
   Height: 71 Inch
             Total In:
                                                                  7,175 mL
                                                                    276 mL
   PO:
                                                                  5,450 mL
                                                                    210 mL
   TF:
   IVF:
                                                                  1,725 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                 13,475 mL
                                                                  2,800 mL
   Urine:
                                                                 13,475 mL
                                                                  2,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,300 mL
                                                                 -2,524 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   331 K/uL
   11.8 g/dL
   187 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   6 mg/dL
   97 mEq/L
   135 mEq/L
   33.2 %
   7.8 K/uL
        [image002.jpg]
                            [**2196-10-29**]  04:38 AM
                            [**2196-10-29**]  07:36 AM
                            [**2196-10-29**]  07:48 AM
                             [**2196-10-30**]  01:23 AM
                             [**2196-10-31**]  03:48 AM
                             [**2196-11-1**]  04:28 AM
                             [**2196-11-2**]  04:30 AM
                             [**2196-11-3**]  01:30 AM
                             [**2196-11-3**]  09:01 AM
                             [**2196-11-3**]  08:00 PM
   WBC
   15.9
   13.4
   14.8
   12.1
   8.5
   7.8
   Hct
   37.9
   32.1
   34.9
   34.6
   36.8
   33.2
   Plt
   322
   262
   315
   350
   356
   331
   Cr
   0.7
   0.5
   0.5
   0.5
   0.5
   0.4
   0.6
   TCO2
   22
   29
   Glucose
   176
   171
   140
   216
   158
   98
   137
   187
   Other labs: PT / PTT / INR:11.5/22.6/1.0, CK / CKMB /
   Troponin-T:296/5/, ALT / AST:18/22, Alk Phos / T Bili:110/0.3, Amylase
   / Lipase:68/24, Lactic Acid:1.6 mmol/L, Albumin:3.7 g/dL, Ca++:8.2
   mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: Appears clear.
   Microbiology: [**11-1**] blood cultures: Coag negative staph from one bottle
   only, sensitivities pending.
   [**11-2**] blood cultures pending.
   [**11-1**] urine cultures negative.
   Assessment and Plan
 OBSTRUCTIVE SLEEP APNEA (OSA)
 THROMBOPHLEBITIS, SUPERFICIAL
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ELECTROLYTE & FLUID DISORDER, OTHER
 DIABETES MELLITUS (DM), TYPE I
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   28M presenting with hyperglycemia, features of acromegaly, found to
   have pituitary macroadenoma with suprasellar extension now s/p
   craniotomy and decompression; now with polyuria, intermittent
   hyponatremia and persistent somnolence.
   # Diabetes insipidus/SIADH.   Tried trial of fluid restriction without
   ddAVP overnight.  Continued
   Became hyponatremic to 129 after receiving 1mcg ddAVP yesterday.  Did
   not get a second dose and since midnight has been making 500 to 700 ccs
   of urine an hour.  We still think that he has diabetes insipidus
   secondary to his surgery.  Our plan now is to try giving ddAVP, but to
   fluid restrict him afterwards to prevent hyponatremia.  We will also
   stop giving him IV fluids as these may be preventing him from self
   regulating.  We will also consult the renal service to get their input
   on how to manage this complex patient.
   - renal consult
   - Appreciate endocrine recs.
   - Give 1 mcg of ddAVP and restrict to 2L of PO intake afterwards.
   - [**Hospital1 **] lytes.
   # Fever/bacteremia: had [**2-1**] positive blood cultures for gram positive
   cocci in clusters.  The induration in his left-sided antecubital fossa
   is concerning for superficial thrombophlebitis and a possible source
   for his positive blood cultures.  He continues to be afebrile with a
   decreasing WBC count, making high-grade bacteremia unlikely.  On day 2
   of vanco and awaiting speciation.  Staph aureus vs epidermis.
   - consult vascular to evaluate this possible.
   - RUE ultrasound to assess for DVT or abscess.
   - continue vancomycin 1mg Q12hours.  If culture is sensitive, will
   consider changing to nafcillin.
   - if staph aureus, consult ID
   - induration on left arm could be a potential source.
   # Acromegaly/pituitary macroadenoma s/p decompression:  s/p craniotomy
   on [**10-28**] with removal of a mass and decompression, now stable from
   surgical standpoint.  No plans to go back to OR; per neurosurg they
   could consider radiation therapy in the future.  IGF and [**Hospital1 **] levels
   confirm that he had hypersecretion and likely acromegaly.
   - Continue Q4H neuro checks for now
   - continue keppra 500 mg [**Hospital1 **] for one month
   - Maintain SBP < 160.  Currently on Metoprolol 25 PO bid
   - appreciate endocrine following.
   - Continue steroid therapy per endocrine recs
 currently at
   hydrocortisone 50mg Q8hrs --> but with plan to decrease to 25mg PO q8
   this am
   # Hyperglycemia. Secondary to likely growth hormone secreting pituitary
   tumor as above, vs. more classic DM II.  HA1C 17 during admission.
   Blood sugars were fairly well controlled yesterday, currently on 20
   Humalog tid and 65 Glargine hs with SSI.
   - endocrine following, appreciate recs.
   - will need DM/insulin education
   # Lethargy.  Most likely related to sleep apnea, as he is profoundly
   apneic at times at night.  Plan is to initiate night CPAP in one month
   once he has recovered sufficiently from his surgery to tolerate
   positive pressures (per neurosurg).  Was pretty normal until a month
   ago per family, when all of this started. Encourage OOB and ambulation.
   - Encourage OOB
   - Consider PT/OT consult
   - Hold sedating meds and pain meds.
   # Central/obstructive sleep apnea. Sleep study performed with frequent
   desaturations to 60's.  Neurosurgery would like to avoid positive
   pressures  as he had recent surgery
   - Sleep study --> would benefit from pos pressure at night
   .
   # FEN: replete lytes prn / DM diet
   # PPX: H2 blocker, bowel regimen, subQ heparin started
   # ACCESS: PIV.  Has difficult access.  Placed order for PICC, but has
   had positive cultures.  Will see if this is possible.
   # CODE: full code
   # CONTACT: patient, [**Name2 (NI) 757**]
   # DISPO: The patient ideally would probably go to rehab after
   discharge.  He has no insurance, however, and does not appear to
   qualify for insurance.  There is also some concern about whether his
   family can care for him.  We are working with social work and case
   management.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-11-1**] 09:19 AM
   18 Gauge - [**2196-11-3**] 08:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: